US09340538B2
(3S)-4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)-6,6-dimethylmorpholine-3-carboxylic acid
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.26 g, 0.51 mmol) was reacted with (S)-6,6-dimethylmorpholine-3-carboxylic acid hydrochloride (0.1 g, 0.51 mmol) according to the procedure as described in Example 1, Step C to give the title compound as a yellow solid (0.18 g, 63%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.51 mmol, 0.26 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC=CN1 | C17H14Br2FN3O2S
reactant | (S)-6,6-dimethylmorpholine-3-carboxylic acid hydrochloride | 0.51 mmol, 0.1 g | Cl.CC1(OC[C@H](NC1)C(=O)O)C
product | (3S)-4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)-6,6-dimethylmorpholine-3-carboxylic acid | 0.18 g, 63% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1[C@@H](COC(C1)(C)C)C(=O)O)C(=O)OCC | C24H26BrFN4O5S
